US05614544
4-Chloromethyl-2-(2-furyl)-5-methyloxazole and triphenylphosphine were reacted in the same manner as in Reference Example 7 to yield [2-(2-furyl)-5-methyl-4-oxazolylmethyl]triphenylphosphonium chloride. Melting point 284°-285° C.

reactant | 4-Chloromethyl-2-(2-furyl)-5-methyloxazole | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | [2-(2-furyl)-5-methyl-4-oxazolylmethyl]triphenylphosphonium chloride | [Cl-].O1C(=CC=C1)C=1OC(=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C27H23NO2P.ClH/c1-21-25(28-27(30-21)26-18-11-19-29-26)20-31(22-12-5-2-6-13-22,23-14-7-3-8-15-23)24-16-9-4-10-17-24;/h2-19H,20H2,1H3;1H/q+1;/p-1
